US09376429B2
Preparation of 3-cyano-4-((2′-fluoro-4-(1-methyl-1H-pyrazol-5-yl)-[2,3′-bipyridin]-5-yl)oxy)-N-(thiazol-2-yl)benzenesulfonamide
10 mg of 4-((6-chloro-4-(1-methyl-1H-pyrazol-5-yl)pyridin-3-yl)oxy)-3-cyano-N-(thiazol-2-yl)benzenesulfonamide was dissolved in DMF/H2O=1:1 (0.46 mL), and 3.2 mg of (2-fluoropyridin-3-yl)boronic acid, 0.8 mg of Pd(PPh3)4 and 7.4 mg of Na2CO3 were added thereto. After reacting with microwave reactor at 120° C. for 5 minutes, DMF was removed by concentrating under reduced pressure. After extracting with EA, the extract was treated with MgSO4 and concentrated under reduced pressure. The residue was separated by PLC (developing solvent, EA) to obtain 3.2 mg (28% yield) of the title compound.

reactant | 4-((6-chloro-4-(1-methyl-1H-pyrazol-5-yl)pyridin-3-yl)oxy)-3-cyano-N-(thiazol-2-yl)benzenesulfonamide | 10 mg | ClC1=CC(=C(C=N1)OC1=C(C=C(C=C1)S(=O)(=O)NC=1SC=CN1)C#N)C1=CC=NN1C | C19H13ClN6O3S2
reactant | (2-fluoropyridin-3-yl)boronic acid | 3.2 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | Na2CO3 | 7.4 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF H2O | CN(C)C=O.O
catalyst | Pd(PPh3)4 | 0.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-cyano-4-((2′-fluoro-4-(1-methyl-1H-pyrazol-5-yl)-[2,3′-bipyridin]-5-yl)oxy)-N-(thiazol-2-yl)benzenesulfonamide | 3.2 mg, 28% yield | C(#N)C=1C=C(C=CC1OC=1C(=CC(=NC1)C=1C(=NC=CC1)F)C1=CC=NN1C)S(=O)(=O)NC=1SC=CN1 | C24H16FN7O3S2
